US05677464
(2R)-2-[3-[4-(2,2,3,3-Tetrafluoropropoxy)phenyl]-2,3-dihydro-2-oxo-1H-imidazol-1-yl]propanoyl chloride (1.5 g) was dissolved in 30 ml of dichloromethane, to which 3.8 ml of 1,3-difluorobenzene and 2.3 g of anhydrous aluminum chloride (powder) were added. The mixture was refluxed with heating for 5 hours. The reaction solution was cooled, poured into 100 ml of ice water and extracted with 100 ml of ethyl acetate. The extract was washed with 50 ml of 1N-hydrochloric acid and 50 ml of a saturated aqueous solution of sodium chloride successively, and dried over magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (silica gel: 50 g, eluent; hexane:ethyl acetate:acetic acid=2:1:0.03) and crystallized from 10 ml of diisopropyl ether to give 0.25 g of 1-[(1R)-2-(2,4-difluorophenyl)-2-oxo-1-methylethyl]-3-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-2(1H,3H)-imidazolone as colorless powdery crystals.

reactant | (2R)-2-[3-[4-(2,2,3,3-Tetrafluoropropoxy)phenyl]-2,3-dihydro-2-oxo-1H-imidazol-1-yl]propanoyl chloride | 1.5 g | FC(COC1=CC=C(C=C1)N1C(N(C=C1)[C@@H](C(=O)Cl)C)=O)(C(F)F)F | C15H13ClF4N2O3
reactant | aluminum chloride | 2.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1,3-difluorobenzene | 3.8 ml | FC1=CC(=CC=C1)F | C6H4F2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1-[(1R)-2-(2,4-difluorophenyl)-2-oxo-1-methylethyl]-3-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-2(1H,3H)-imidazolone | 0.25 g | FC1=C(C=CC(=C1)F)C([C@@H](C)N1C(N(C=C1)C1=CC=C(C=C1)OCC(C(F)F)(F)F)=O)=O | C21H16F6N2O3
